US09422252B2
4-methyl-3-(trifluoromethoxy)phenol
A solution of 4-hydroxy-2-(trifluoromethoxy)benzaldehyde (210 g, 1 equiv) in ethanol: acetic acid 3:1 (1050 Lt) was treated with Pd/C 5% catalyst-50% wet (21 g) and stirred at 800 rpm under 5 bar of hydrogen for 2.5 hrs. A second aliquot of Pd/C 5% catalyst-50% wet (33.6 g) was then added and the mixture subjected to the same hydrogenation conditions until reaching 22 hrs in total. The reaction mixture was filtered on a charcoal cartridge and washed with ethanol (525 mL). The resulting clear solution was concentrated to ca. 420 mL and the residue diluted with ethyl acetate (1050 Lt) and an aqueous 10% solution of ammonium chloride (525 mL). The phases were allowed separating and the organic one washed with water (2×525 mL), dried over sodium sulfate, filtered and concentrated to dryness. The title compound was obtained as colorless oil (196 g).

reactant | 4-hydroxy-2-(trifluoromethoxy)benzaldehyde | 210 g, 1 equiv | OC1=CC(=C(C=O)C=C1)OC(F)(F)F | C8H5F3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol acetic acid | C(C)O.C(C)(=O)O
catalyst | Pd/C | [Pd] | Pd
product | 4-methyl-3-(trifluoromethoxy)phenol | CC1=C(C=C(C=C1)O)OC(F)(F)F | C8H7F3O2
